US05939039
Novel Low Temperature Calcium Phosphate Powder Preparation
An aqueous solution of 8.51 g 50 wt % H3PO2 was combined with 8.00 g of 25.0 wt % aqueous solution of calcium acetate monohydrate, Ca(O2CCH3)2.H2O (ACS reagent, Aldrich Chemical Co., Inc. #40,285-0, CAS 5743-26-0), equivalent to 5.69 wt % Ca, to give a clear, colorless solution contained in a 250 ml Pyrex beaker. To this solution was added 20.17 g Ca(NO3)2.4H2O salt. The molar ratio of Ca/phosphate in this mixture was 3/2 and the equivalent solids level [as Ca3 (PO4)2 ] was 27.3 wt %. Endothermic dissolution of the calcium nitrate tetrahydrate salt proceeded giving a homogeneous solution once the sample warmed to room temperature. Further warming of this solution to >25° C. on a hotplate initiated a reaction which proceeded as described in Example 1. After approximately three minutes, the reaction was essentially complete leaving a moist, white, crumbly solid which was hot to the touch and which smelled of acetic acid. After cooling to room temperature, the solid was stored in a polyethylene vial.

reactant | H3PO2 | O[PH2]=O | H3O2P
reactant | calcium acetate monohydrate | O.C(C)(=O)[O-].[Ca+2].C(C)(=O)[O-]
reactant | H2O | O | H2O
reactant | calcium nitrate tetrahydrate | O.O.O.O.[N+](=O)([O-])[O-].[Ca+2].[N+](=O)([O-])[O-]
reactant | polyethylene | C(C[*:2])[*:1]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Calcium Phosphate | P(=O)([O-])([O-])[O-].[Ca+2].P(=O)([O-])([O-])[O-].[Ca+2].[Ca+2] | InChI=1S/3Ca.2H3O4P/c;;;2*1-5(2,3)4/h;;;2*(H3,1,2,3,4)/q3*+2;;/p-6
